US07151105B2
Acetonedicarboxylic acid (Aldrich, 165115) (60 g, 0.41 mol) was added rapidly to propionic anhydride (Aldrich, 240311) (170 mL, 1.3 mol) containing concentrated sulfuric acid (2 mL), and the reaction mixture was heated at 100° C. for 30 minutes with stirring. The solution was cooled rapidly in an ice-salt mixture, and just when a white solid mass was forming, the reaction was added to cold water (500 mL), stirred and filtered immediately. The product was air-dried and placed in a 3 L flask and treated with aqueous 10% sodium carbonate (600 mL). The resulting paste was stirred with a stirrer and heated at 100° C. for 30 min. Carbon dioxide evolved and a light yellow solution was obtained which was heated at 85–90° C. for further 80 min. The solution was cooled and acidified with aqueous 30% acetic acid until no more carbon dioxide was evolved. The white precipitate was filtered, washed with water, air-dried and then added to concentrate hydrochloric acid (120 mL) in a 2 L round-bottomed flask, and the mixture was heated under reflux for 4 hours. The solution was cooled in ice and neutralized by adding it to a stirred solution of sodium carbonate (about 115 g) in water (about 500 mL). The neutral solution was extracted thoroughly with EtOAc. The extract was dried and stripped of solvent to give product 2,6-Diethyl-4-pyrone as a brown oil. (Yates et al, JOC, vol. 34, No, 12, 1969, p4046–4052)

reactant | Acetonedicarboxylic acid | 0.41 mol, 60 g | C(C(=O)CC(=O)O)C(=O)O | C5H6O5
reactant | propionic anhydride | 1.3 mol, 170 mL | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | carbon dioxide | C(=O)=O | CO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 500 mL | O | H2O
product | 2,6-Diethyl-4-pyrone | C(C)C=1OC(=CC(C1)=O)CC | C9H12O2
